US07115611B2
C] 2-{4-[2-Dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
0.170 g (0.548 mmol) of the above prepared [2-dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol and 0.122 g (0.512 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) were dissolved in 6 ml of abs. THF and treated successively at 0° C. with 0.133 g (0.658 mmol) of tributylphosphine and 0.114 g (0.659 mmol) of N,N,N′,N′-tetramethylazodicarboxamide. The cooling bath was then removed and stirring continued for additional 6 h. The reaction mixture was then poured onto crashed ice, extracted twice with AcOEt, washed with water and brine, and dried over magnesium sulfate. Evaporation of the solvents i. V., followed by flash chromatography (SiO2, hexane/AcOEt=25/75) yielded 0.016 g of the title product as yellow oil.

reactant | [2-dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CN(C)CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C16H17F3N2O
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.512 mmol, 0.122 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | tributylphosphine | 0.658 mmol, 0.133 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethylazodicarboxamide | 0.659 mmol, 0.114 g | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-{4-[2-Dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.016 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)CN(C)C)C)=O | C29H33F3N2O4
